US08138340B2
3-(5-Tributylstannanylisoxazol-3-yl)propan-1-ol
4-Hydroxybutyraldehyde oxime (Paul, R.; Fluchaire, M.; Collardeau, G. Bull. Soc. Chim. France, 1950, 668; 11.5 g, 112 mmol) was dissolved in CH2Cl2 (600 mL). KHCO3 (16.8 g, 168 mmol), then ethynyltributyltin (35.3 g, 112 mmol), then N-chlorosuccinimide (16.4 g, 123 mmol) were added, and the mixture was stirred at rt overnight. The mixture was washed with brine. The org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 1:5→1:4→1:3→1:2→1:1) yielded the title compound (13.0 g, 28%). LC-MS: tR=1.17, ES+: 418.20.

reactant | 4-Hydroxybutyraldehyde oxime | 112 mmol, 11.5 g | OCCCC=NO | C4H9NO2
reactant | ethynyltributyltin | 112 mmol, 35.3 g | C(#C)[Sn](CCCC)(CCCC)CCCC
reactant | N-chlorosuccinimide | 123 mmol, 16.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-Tributylstannanylisoxazol-3-yl)propan-1-ol | 13.0 g, 28% | C(CCC)[Sn](C1=CC(=NO1)CCCO)(CCCC)CCCC | InChI=1S/C6H8NO2.3C4H9.Sn/c8-4-1-2-6-3-5-9-7-6;3*1-3-4-2;/h3,8H,1-2,4H2;3*1,3-4H2,2H3;
